US07432284B2
To a mixture of 2-Chloro-4-fluoro-3-methoxybenzaldehyde (17.6 g, 93.3 mmol) and malonic acid (18.6 g, 179 mmol) was added pyridine (60 mL) followed by piperidine (1.6 mL, 19 mmol). The mixture was heated in a 90° C. oil bath giving a clear yellow solution. After 220 minutes, the hot solution was poured into 500 mL of ice cold 2.5N HCl with stirring. The resulting solid was isolated by filtration, washing thoroughly with water. Drying under vacuum gave (2E)-3-(2-chloro-4-fluoro-3-methoxyphenyl)acrylic acid as a yellow solid.

reactant | 2-Chloro-4-fluoro-3-methoxybenzaldehyde | 93.3 mmol, 17.6 g | ClC1=C(C=O)C=CC(=C1OC)F | C8H6ClFO2
reactant | malonic acid | 179 mmol, 18.6 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | piperidine | 19 mmol, 1.6 mL | N1CCCCC1 | C5H11N
solvent | pyridine | 60 mL | N1=CC=CC=C1 | C5H5N
product | (2E)-3-(2-chloro-4-fluoro-3-methoxyphenyl)acrylic acid | ClC1=C(C=CC(=C1OC)F)/C=C/C(=O)O | C10H8ClFO3
